US04128721
1-[2-Carbamoylmethyl-3-acetylthiopropanoyl]-L-proline (1.2 g.) is dissolved in a mixture of water (20 ml.) and concentrated ammonia (20 ml.). After 15 minutes the reaction mixture is processed as described in "A" above to obtain 1-[2-carbamoylmethyl-3-mercaptopropanoyl]-L-proline.

reactant | 1-[2-Carbamoylmethyl-3-acetylthiopropanoyl]-L-proline | 1.2 g | C(N)(=O)CC(C(=O)N1[C@H](C(=O)O)CCC1)CSC(C)=O | C12H18N2O5S
solvent | water | 20 ml | O | H2O
solvent | ammonia | 20 ml | N | H3N
product | 1-[2-carbamoylmethyl-3-mercaptopropanoyl]-L-proline | C(N)(=O)CC(C(=O)N1[C@H](C(=O)O)CCC1)CS | C10H16N2O4S
